US07238716B2
To a mixture of [4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]phenyl]methanol (4.28 g), 2-chloro-3-cyanopyridine (2.10 g) and N,N-dimethylformamide (5.0 mL) was added sodium hydride (60%, oil, 0.66 g) under ice-cooling. The reaction mixture was stirred at 80° C. for 1 hr. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The obtained residue was subjected to silica gel column chromatography to give crystals (1.90 g, 33%) of 6-methyl-2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]nicotinonitrile from a fraction eluted with ethyl acetate-hexane (1:2, v/v). Recrystallization from ethyl acetate-hexane gave pale-yellow prism crystals. melting point: 116-117° C.

reactant | [4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]phenyl]methanol | 4.28 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)CO | C18H17NO3
reactant | 2-chloro-3-cyanopyridine | 2.10 g | ClC1=NC=CC=C1C#N | C6H3ClN2
reactant | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.66 g | [H-].[Na+]
solvent | Water | O | H2O
product | 6-methyl-2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]nicotinonitrile | 1.90 g, 33% | CC1=NC(=C(C#N)C=C1)OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C25H21N3O3
